US07288537B2
A solution of {(S)-1-tert-butoxymethyl-3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propyl}-carbamic acid benzyl ester (0.2 g, 0.45 mmol) in methanol containing 10% palladium on carbon (66 mg) is stirred under an atmosphere of hydrogen for 3 hours, then filtered through a celite™ filter The filtrate is evaporated and the residue taken up in ethyl acetate, washed with aqueous NaHCO3 solution and brine, dried over MgSO4 and evaporated to afford (S)-1-tert-butoxymethyl-3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propylamine.

reactant | {(S)-1-tert-butoxymethyl-3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propyl}-carbamic acid benzyl ester | 0.45 mmol, 0.2 g | C(C1=CC=CC=C1)OC(N[C@@H](CCN1CC(C1)OC1=CC=C(C=C1)F)COC(C)(C)C)=O | C25H33FN2O4
solvent | methanol | 66 mg | CO | CH4O
product | (S)-1-tert-butoxymethyl-3-[3-(4-fluoro-phenoxy)-azetidin-1-yl]-propylamine | C(C)(C)(C)OC[C@H](CCN1CC(C1)OC1=CC=C(C=C1)F)N | C17H27FN2O2
